US06964974B2
A solution of 320 mg (0.83 mmol) of 4-(3-Methanesulfonyloxy-prop-1-ynyl)-piperidine-1-carboxylic acid 4-chloro-phenyl ester and 0.79 ml (8.3mmol) of N-methylallylamine in 7 ml of methanol was stirred over night at RT. Then an aqueous solution of 1N NaOH was added and extracted with ether (3×). The organic phase was dried with Na2SO4, filtered and evaporated. The residue was purified by flash column chromatography on silica gel (CH2Cl2/MeOH 19:1 to 9:1) to yield 201 mg (70%) of pure 4-[3-(Allyl-methyl-amino)-prop 1 ynyl]-piperidine-1-carboxylic acid 4-chloro-phenyl ester, MS: 347 (MH+, 1Cl).

reactant | 4-(3-Methanesulfonyloxy-prop-1-ynyl)-piperidine-1-carboxylic acid 4-chloro-phenyl ester | 0.83 mmol, 320 mg | ClC1=CC=C(C=C1)OC(=O)N1CCC(CC1)C#CCOS(=O)(=O)C | C16H18ClNO5S
reactant | N-methylallylamine | 8.3mmol, 0.79 ml | CC=CCN | C4H9N
reactant | NaOH | 1N | [OH-].[Na+]
reactant | methanol | 7 ml | CO | CH4O
product | 4-[3-(Allyl-methyl-amino)-prop 1 ynyl]-piperidine-1-carboxylic acid 4-chloro-phenyl ester | 201 mg, 70% | ClC1=CC=C(C=C1)OC(=O)N1CCC(CC1)C#CCN(C)CC=C | C19H23ClN2O2
